US06297259B1
N-Methyl-N-(4-(4-(1-(2-ethyoxyethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)benzamide
Combine N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-benzamide (1.36 mmol), 2-chloroethyl ethyl ether (0.59 g, 5.44 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (1.66 g, 10.9 mmol) in acetonitrile (16 mL). Heat to reflux. After 18 hours, cool to ambient temperature and dilute the reaction mixture with ethyl acetate. Extract twice with saturated aqueous solution of ammonium chloride, 5% aqueous solution of sodium bicarbonate, water, and saturated aqueous solution of sodium chloride. Dry the organic layer over Na2SO4, filter, and concentrate invacuo to give the title compound.

reactant | N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-benzamide | 1.36 mmol | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2)C2=CC(=C(C=C2)Cl)Cl | C31H32Cl2N4O2
reactant | 2-chloroethyl ethyl ether | 5.44 mmol, 0.59 g | C(C)OCCCl | C4H9ClO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 10.9 mmol, 1.66 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Methyl-N-(4-(4-(1-(2-ethyoxyethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC)C=CC=C2)C2=CC(=C(C=C2)Cl)Cl | C35H40Cl2N4O3
